US08486952B2
The mixture of ethanamine (406 μL, 0.812 mmol), 2,4-dichloro-8-(3,5-difluorophenyl)-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine (Preparation X)(117 mg, 0.369 mmol) and DIEA (161 μL, 0.922 mmol) in THF (1845 μL) was stirred at RT for 2 h. The mixture was concentrated and purified by column chromatography on silica gel to give 2-chloro-8-(3,5-difluorophenyl)-N-ethyl-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-4-amine (104 mg, 0.319 mmol, 87% yield). LC-MS (M+H)+=326.1.

reactant | ethanamine | 0.812 mmol, 406 μL | C(C)N | C2H7N
reactant | 2,4-dichloro-8-(3,5-difluorophenyl)-7,8-dihydro-5H-pyrano[4,3-d]pyrimidine | 0.369 mmol, 117 mg | ClC=1N=C(C2=C(N1)C(COC2)C2=CC(=CC(=C2)F)F)Cl | C13H8Cl2F2N2O
reactant | DIEA | 0.922 mmol, 161 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 1845 μL | C1CCOC1 | C4H8O
product | 2-chloro-8-(3,5-difluorophenyl)-N-ethyl-7,8-dihydro-5H-pyrano[4,3-d]pyrimidin-4-amine | 0.319 mmol, 104 mg, 87% yield | ClC=1N=C(C2=C(N1)C(COC2)C2=CC(=CC(=C2)F)F)NCC | C15H14ClF2N3O
